**************************************************************
*  Electronic circuit simulation file generated by gSpiceUI  *
*             Version 0.9.98 Alpha (14/10/2009)              *
**************************************************************

* Schematic : /home/lroot/Desktop/sedra-spice/ex5.1.3/nmos-basic.sch

* Component Definitions
M1 2 0 3 3 nmos4 l=10u w=400u
Rd 2 1 10K
Rs 4 3 5K
Vdd 1 0 DC 5V
Vss 0 4 DC 5V

* Model Definitions
.MODEL nmos4 NMOS (kp=20u Vto=+2v lambda=0)

* NG-Spice Simulation Commands
.OP

.END

